### PR TITLE
[Merged by Bors] - feat(Topology/Constructions): `piMap` is inducing / embedding / etc

### PR DESCRIPTION
**Pull request by loefflerd**
Assorted topological results about Pi types, matrices, and matrix groups:
- An arbitrary product of topologically inducing maps is inducing, and similarly for embeddings, etc. 
- As a special case, inducing / embedding / etc maps of topological rings induce maps with the same property on matrix spaces.
- When R is a topological ring and `n` a fintype, `SL n R` (with the topology it inherits from `Matrix n n R`) is a topological group, and its topology coincides with the subspace topology from `GL n R`.
- The image of `SL n Z` in `GL n R` is discrete.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Constructions.lean [hunk 1]
```diff
@@ -706,11 +706,27 @@ theorem continuousAt_pi' {f : X → ∀ i, A i} {x : X} (hf : ∀ i, ContinuousA
...
+    (hf : ∀ i, IsInducing (f i)) : IsInducing (Pi.map f) := by
+  refine isInducing_iff_nhds.mpr fun x ↦ le_antisymm ?_ (fun s ↦ ?_)
+  · simpa [← Filter.map_le_iff_le_comap]
+      using (Continuous.piMap fun i ↦ (hf i).continuous).continuousAt
+  · simp only [Filter.mem_comap, nhds_pi, Filter.mem_pi']
+    rintro ⟨I, t, ht, ht'⟩
+    simp only [fun i ↦ Topology.isInducing_iff_nhds.mp (hf i) (x i),
+      Filter.mem_comap] at ht
+    choose u hu hu' using ht
+    exact ⟨Set.pi I u, ⟨I, u, hu, le_rfl⟩, subset_trans (fun v ↦ by aesop) ht'⟩
```
Comment (ADedecker) [inline Mathlib/Topology/Constructions.lean]: I suggest adding the following right after [Filter.tendsto_piMap_pi](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Pi.html#Filter.tendsto_piMap_pi)
```lean
theorem pi_comap {β : ι → Type*} {f : ∀ i, α i → β i} {l : ∀ i, Filter (β i)} :
    pi (fun i ↦ comap (f i) (l i)) = comap (Pi.map f) (pi l) := by
  simp [Filter.pi, Filter.comap_comap]
  rfl
```
Then you can do:
```suggestion
protected lemma Topology.IsInducing.piMap {f : ∀ i, A i → B i}
    (hf : ∀ i, IsInducing (f i)) : IsInducing (Pi.map f) := by
  simp [isInducing_iff_nhds, nhds_pi, (hf _).nhds_eq_comap, Filter.pi_comap]
```

File: Mathlib/Topology/Constructions.lean [hunk 2]
```diff
@@ -961,6 +977,14 @@ theorem isClosed_set_pi {i : Set ι} {s : ∀ a, Set (A a)} (hs : ∀ a ∈ i, I
     IsClosed (pi i s) := by
   rw [pi_def]; exact isClosed_biInter fun a ha => (hs _ ha).preimage (continuous_apply _)
 
+protected lemma Topology.IsClosedEmbedding.piMap {f : ∀ i, A i → B i}
+    (hf : ∀ i, IsClosedEmbedding (f i)) : IsClosedEmbedding (Pi.map f) :=
+  ⟨.piMap fun i ↦ (hf i).1, by simpa using isClosed_set_pi fun i _ ↦ (hf i).2⟩
+
+protected lemma Topology.IsOpenEmbedding.piMap [Fintype ι] {f : ∀ i, A i → B i}
```
Comment (ADedecker) [inline Mathlib/Topology/Constructions.lean]:
```suggestion
protected lemma Topology.IsOpenEmbedding.piMap [Finite ι] {f : ∀ i, A i → B i}
```

File: Mathlib/Topology/Instances/Matrix.lean [hunk 3]
```diff
@@ -244,6 +244,39 @@ theorem continuousAt_matrix_inv [Fintype n] [DecidableEq n] [CommRing R] [IsTopo
...
+
+lemma IsEmbedding.matrix_map (hf : IsEmbedding f) :
+    IsEmbedding (map · f : Matrix m n R → Matrix m n S) :=
+  IsEmbedding.piMap fun _ : m ↦ (IsEmbedding.piMap fun _ : n ↦ hf)
+
+lemma IsClosedEmbedding.matrix_map (hf : IsClosedEmbedding f) :
+    IsClosedEmbedding (map · f : Matrix m n R → Matrix m n S) :=
+  IsClosedEmbedding.piMap fun _ : m ↦ (IsClosedEmbedding.piMap fun _ : n ↦ hf)
+
+lemma IsOpenEmbedding.matrix_map [Fintype m] [Fintype n] (hf : IsOpenEmbedding f) :
```
Comment (ADedecker) [inline Mathlib/Topology/Instances/Matrix.lean]:
```suggestion
lemma IsOpenEmbedding.matrix_map [Finite m] [Finite n] (hf : IsOpenEmbedding f) :
```

File: Mathlib/Topology/Instances/Matrix.lean [hunk 4]
```diff
@@ -244,6 +244,39 @@ theorem continuousAt_matrix_inv [Fintype n] [DecidableEq n] [CommRing R] [IsTopo
...
+    IsOpenEmbedding (map · f : Matrix m n R → Matrix m n S) :=
+  IsOpenEmbedding.piMap fun _ : m ↦ (IsOpenEmbedding.piMap fun _ : n ↦ hf)
+
+/-- The topology on matrices over a discrete space is discrete. -/
+instance discreteTopologyMatrix [Fintype m] [Fintype n] [DiscreteTopology R] :
```
Comment (ADedecker) [inline Mathlib/Topology/Instances/Matrix.lean]:
```suggestion
instance discreteTopologyMatrix [Finite m] [Finite n] [DiscreteTopology R] :
```

File: Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean [hunk 5]
```diff
@@ -51,3 +55,24 @@ instance IsArithmetic.finiteIndex_comap (𝒢 : Subgroup (GL (Fin 2) ℝ)) [IsAr
...
+  ⟨isInducing_toGL, mapGL_injective⟩
+
+instance discreteTopology_SL2ℤ : DiscreteTopology 𝒮ℒ :=
+  isEmbedding_toGL.toHomeomorph.discreteTopology
+
+lemma isClosed_SL2ℤ : IsClosed (𝒮ℒ : Set (GL (Fin 2) ℝ)) :=
+  Subgroup.isClosed_of_discrete
+
+lemma isClosedEmbedding_toGL : Topology.IsClosedEmbedding (mapGL ℝ : SL(2, ℤ) → GL (Fin 2) ℝ) :=
+  ⟨isEmbedding_toGL, isClosed_SL2ℤ⟩
```
Comment (ADedecker) [inline Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean]: This whole section feels too specialized: you could at least allow an arbitrary index fintype. 

I also wanted to suggest that, in the first two statements, you could replace `(ℤ, ℝ)` by any pair `(A, B)` with `[NormedRing A] [NormedRing B] [Algebra A B] (h : IsInducing (algebraMap A B))`, but unfortunately the topology on `SL(n, A)` is incorrectly defined as the one inherited from `M_n(A)` instead of `GL(n, A)`, so I'm afraid that statement is not true for Mathlib's definitions.
Could you at least generalize to `[DiscreteTopology A]` (this way your proofs shouldn't break) and mention that it shouldn't be necessary (if you agree, it is also possible that I am missing something obvious).

File: Mathlib/Topology/Constructions.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Topology/Constructions.lean]: Very slick! I had a feeling there had to be a better way than my clumsy proof.

File: Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean (hunk 5 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean]: Why "incorrectly"? For `SL(n)`, the entries of the inverse are polynomials in the entries of the original matrix (because the determinant is 1 you don't need to invert it), so inversion is continuous in the topology given by the embedding into M_n (which would not be true in GL_n of course). Or are you saying that even though it's a theorem that these topologies are equal, we should be favouring the GL_n one rather than the M_n one as the primary definition?

Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean]: FWIW, this statement does not appear to be in Mathlib, and clearly should be. Something like
```lean
local notation "SL" => SpecialLinearGroup

variable {n : Type*} [Fintype n] [DecidableEq n]
  {A : Type*} [CommRing A] [TopologicalSpace A] [IsTopologicalRing A]

instance isTopologicalGroup : IsTopologicalGroup (SL n A) where
  continuous_inv := by simpa [continuous_induced_rng] using continuous_induced_dom.matrix_adjugate
  continuous_mul := by simpa only [continuous_induced_rng] using
    (continuous_induced_dom.comp continuous_fst).mul (continuous_induced_dom.comp continuous_snd)

lemma continuous_toGL : Continuous (toGL : SL n A → GL n A) := by
  rw [continuous_induced_rng, continuous_prodMk]
  refine ⟨continuous_induced_dom, MulOpposite.continuous_op.comp ?_⟩
  simpa only [← map_inv, coe_GL_coe_matrix] using continuous_induced_dom.comp continuous_inv

lemma inducing_toGL : Topology.IsInducing (toGL : SL n A → GL n A) :=
  .of_comp continuous_toGL Units.continuous_val (Topology.IsInducing.induced _)
```
Shall I add that to the PR?

**Comment by loefflerd** [comment]
Hi Anatole,

I've pushed a new version based on your comments. Main changes:
- I added a topological group instance for SL(n) over any topological comm ring, and lemmas showing the map to GL(n) is a topological embedding.
- I put in versions of the lemmas in a general "relative" setting, for `SL n A -> GL n B` with general rings A and B, taking an explicit proof argument that `algebraMap A B` is inducing / embedding. Since this argument can't be supplied by the typeclass machinery in concrete cases, I'd still like to keep the versions for `Z -> R` as well, since these are what's needed for modular forms.

File: Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean (hunk 5 above)
Comment (ADedecker) [reply Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean]: > Why "incorrectly"? For `SL(n)`, the entries of the inverse are polynomials in the entries of the original matrix (because the determinant is 1 you don't need to invert it), so inversion is continuous in the topology given by the embedding into M_n (which would not be true in GL_n of course). 

:facepalm: Sorry, you are right of course, I had a feeling of "this looks wrong" coming from the case of GL_n and didn't think more about it... 

Indeed I think the API you mention is good to have.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean [hunk 6]
```diff
@@ -0,0 +1,76 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: David Loeffler
+-/
+import Mathlib.LinearAlgebra.Matrix.GeneralLinearGroup.Defs
+import Mathlib.Topology.Algebra.Group.Pointwise
+import Mathlib.Topology.Instances.Matrix
+
+/-!
+# Topology of the general linear group
+-/
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean]: I think the content of this file could fit in `Mathlib.Topology.Instances.Matrix`. In any case, I would put it in the `Topology` folder.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean [hunk 7]
```diff
@@ -0,0 +1,76 @@
...
+
+/-- The natural map from `SL n A` in `GL n A` is an embedding, i.e. it is an injection and
+the topology on `SL n A` coincides with the subspace topology from `GL n A`. -/
+lemma isEmbedding_toGL : Topology.IsEmbedding (toGL : SL n A → GL n A) :=
+  ⟨isInducing_toGL, toGL_injective⟩
+
+lemma isClosed_range_toGL [T0Space A] : IsClosed (Set.range (toGL : SL n A → GL n A)) := by
+  convert_to IsClosed (GeneralLinearGroup.det ⁻¹' {1})
+  · ext x
+    simpa [Units.ext_iff] using ⟨fun ⟨y, hy⟩ ↦ by simp [← hy], fun hx ↦ ⟨⟨x, hx⟩, rfl⟩⟩
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean]: I think this should be its own lemma, since it's likely to be useful in other contexts.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean [hunk 8]
```diff
@@ -0,0 +1,76 @@
...
+  {A : Type*} [CommRing A] [TopologicalSpace A] [IsTopologicalRing A]
+
+/-- The determinant is continuous as a map from the general linear group to the units. -/
+@[continuity, fun_prop] protected lemma Matrix.GeneralLinearGroup.continuous_det :
+    Continuous (det : GL n A → Aˣ) := by
+  rw [continuous_induced_rng, continuous_prodMk]
+  simp only [Function.comp_apply, Units.embedProduct_apply]
+  refine ⟨Units.continuous_val.matrix_det, MulOpposite.continuous_op.comp ?_⟩
+  simpa only [← map_inv, GeneralLinearGroup.val_det_apply]
+    using (Units.continuous_val.comp continuous_inv).matrix_det
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean]:
```suggestion
  simp_rw [Units.continuous_iff, ← map_inv]
  constructor <;> fun_prop
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean [hunk 9]
```diff
@@ -0,0 +1,76 @@
...
+
+namespace Matrix.SpecialLinearGroup -- results on the map from `SL` to `GL`
+
+local notation "SL" => SpecialLinearGroup
+
+/-- The natural map from `SL n A` to `GL n A` is continuous. -/
+lemma continuous_toGL : Continuous (toGL : SL n A → GL n A) := by
+  rw [continuous_induced_rng, continuous_prodMk]
+  refine ⟨continuous_induced_dom, MulOpposite.continuous_op.comp ?_⟩
+  simpa only [← map_inv, coe_GL_coe_matrix] using continuous_induced_dom.comp continuous_inv
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean]:
```suggestion
  simp_rw [Units.continuous_iff, ← map_inv]
  constructor <;> fun_prop
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean [hunk 10]
```diff
@@ -0,0 +1,76 @@
...
+variable {n : Type*} [Fintype n] [DecidableEq n]
+  {A B : Type*} [CommRing A] [CommRing B] [Algebra A B]
+  [TopologicalSpace A] [TopologicalSpace B] [IsTopologicalRing B]
+
+lemma isInducing_mapGL (h : Topology.IsInducing (algebraMap A B)) :
+    Topology.IsInducing (mapGL B : SL n A → GL n B) := by
+  refine isInducing_toGL.comp ?_
+  refine .of_comp ?_ continuous_induced_dom (h.matrix_map.comp (Topology.IsInducing.induced _))
+  rw [continuous_induced_rng]
+  exact continuous_subtype_val.matrix_map h.continuous
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean]: Ideally this should be taken care of by a version of `IsInducing.matrix_map` for `GeneralLinearGroup`. However this is starting to be a lengthy PR so I'm fine with a comment along the lines of: 
```
TODO: add `IsInducing.units_map` and deduce `IsInducing.generalLinearGroup_map`
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean [hunk 11]
```diff
@@ -0,0 +1,76 @@
...
+  ⟨isInducing_toGL, toGL_injective⟩
+
+lemma isClosed_range_toGL [T0Space A] : IsClosed (Set.range (toGL : SL n A → GL n A)) := by
+  convert_to IsClosed (GeneralLinearGroup.det ⁻¹' {1})
+  · ext x
+    simpa [Units.ext_iff] using ⟨fun ⟨y, hy⟩ ↦ by simp [← hy], fun hx ↦ ⟨⟨x, hx⟩, rfl⟩⟩
+  · apply isClosed_singleton.preimage GeneralLinearGroup.continuous_det
+
+/-- The natural inclusion of `SL n A` in `GL n A` is a closed embedding. -/
+lemma closedEmbedding_toGL [T0Space A] : Topology.IsClosedEmbedding (toGL : SL n A → GL n A) :=
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean]:
```suggestion
lemma isClosedEmbedding_toGL [T0Space A] : Topology.IsClosedEmbedding (toGL : SL n A → GL n A) :=
```

File: Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean [hunk 12]
```diff
@@ -51,3 +55,20 @@ instance IsArithmetic.finiteIndex_comap (𝒢 : Subgroup (GL (Fin 2) ℝ)) [IsAr
...
+variable {n : Type*} [Fintype n] [DecidableEq n]
+
+instance discreteSpecialLinearGroupRange : DiscreteTopology (mapGL (n := n) (R := ℤ) ℝ).range :=
+  (isEmbedding_mapGL (Isometry.isEmbedding fun _ _ ↦ rfl)).toHomeomorph.discreteTopology
+
+lemma isClosed_range_mapGL : IsClosed ((mapGL (n := n) (R := ℤ) ℝ).range : Set (GL n ℝ)) :=
+  Subgroup.isClosed_of_discrete
+
+lemma isClosedEmbedding_mapGL : Topology.IsClosedEmbedding (mapGL ℝ : SL n ℤ → GL n ℝ) :=
+  ⟨isEmbedding_mapGL (Isometry.isEmbedding fun _ _ ↦ rfl), isClosed_range_mapGL⟩
```
Comment (ADedecker) [inline Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean]: I think these names should be named in a way to avoid clashes with potential more general versions. Maybe add `ℤ` or `ℝ` somewhere?

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean (hunk 10 above)
Comment (loefflerd) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean]: With our present setup I think we would actually require `IsInducing.specialLinearGroup_map`. (The definition of `mapGL` is to extend scalars in `SL` first, and then map `SL -> GL` after, not the other way around.) But I'm fine with leaving this for now.

Comment (ADedecker) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Topology.lean]: Well ideally both specializations would exist (but you're right that I mentioned the wrong one)

File: Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean [hunk 13]
```diff
@@ -6,6 +6,10 @@ Authors: David Loeffler
 import Mathlib.Data.Real.Basic
 import Mathlib.GroupTheory.Commensurable
 import Mathlib.LinearAlgebra.Matrix.GeneralLinearGroup.Defs
+import Mathlib.Topology.Algebra.IsUniformGroup.Basic
+import Mathlib.Topology.Algebra.Ring.Real
+import Mathlib.Topology.Instances.Matrix
+import Mathlib.Topology.MetricSpace.Isometry
```
Comment (kim-em) [inline Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean:12]: This seems like a lot of extra imports. Could this be a new file?

Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean:12]: If you look at the import-summary-bot output, it shows that almost everything which imports `ArithmeticSubgroups` already imports these files anyway, so the change in the import tree is very localized (there is just 1 downstream file, `CongruenceSubgroups`, which gets a nontrivial import increase as a result). Also, I created `ArithmeticSubgroups.lean` myself only ~a few weeks ago~ [edit: merged only 4 days ago!], and it was always the plan that it would contain a proof that arithmetic subgroups are discrete.

**Comment by loefflerd** [comment]
I would be grateful if we could wrap this up, since there are now multiple PR's by me and by others depending on it.

@kim-em are you happy with the explanation above about the import increase? 
@ADedecker do you have any further comments?

**Comment by ADedecker** [comment]
Sorry, I got quite busy at the end of the week. I'm having a final look right now.

File: Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean (hunk 13 above)
Comment (ADedecker) [reply Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean:12]: I think these are indeed perfectly reasonable imports for this file.

File: Mathlib/Topology/Instances/Matrix.lean [hunk 14]
```diff
@@ -434,3 +456,90 @@ theorem Summable.matrix_blockDiag' {f : X → Matrix (Σ i, m' i) (Σ i, n' i) R
 end BlockMatrices
 
 end tsum
+
```
Comment (ADedecker) [inline Mathlib/Topology/Instances/Matrix.lean:459]:
```suggestion

/-! ### Lemmas about matrix groups -/

```

File: Mathlib/Topology/Instances/Matrix.lean [hunk 15]
```diff
@@ -434,3 +456,90 @@ theorem Summable.matrix_blockDiag' {f : X → Matrix (Σ i, m' i) (Σ i, n' i) R
...
+instance : TopologicalSpace (SpecialLinearGroup n R) :=
+  instTopologicalSpaceSubtype
+
+/-- If `R` is a commutative ring with the discrete topology, then `SL(n, R)` has the discrete
+topology. -/
+instance [DiscreteTopology R] : DiscreteTopology (SL n R) :=
+  instDiscreteTopologySubtype
+
+/-- The special linear group over a topological ring is a topological group. -/
+instance topologicalGroup [IsTopologicalRing R] : IsTopologicalGroup (SL n R) where
```
Comment (ADedecker) [inline Mathlib/Topology/Instances/Matrix.lean]:
```suggestion
instance topologicalGroup : IsTopologicalGroup (SL n R) where
```

**Review by ADedecker — APPROVED** [review]
LGTM, thanks! Would you mind expanding slightly the PR description to mention what happens in `Topology.Instances.Matrix`?

bors d+

**Comment by loefflerd** [comment]
Many thanks Anatole for the review!
